US08466186B2
(f) N-{4-Trifluoromethyl-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanamide
The title compound was prepared in analogy to Example 76 using 5-chloro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline (185 mg, 0.60 mmol), N-(4-trifluoromethyl-3-isothiocyanatobenzyl)-1-(trifluoromethyl)cyclopropane carboxamide (221 mg, 0.60 mmol), DIC (76 mg, 0.60 mmol) and DMF (4 mL).

reactant | 5-chloro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline | 0.60 mmol, 185 mg | ClC=1C(=CC(=C(N)C1)NC)N1CCC(CC1)C(F)(F)F | C13H17ClF3N3
reactant | N-(4-trifluoromethyl-3-isothiocyanatobenzyl)-1-(trifluoromethyl)cyclopropane carboxamide | 0.60 mmol, 221 mg | FC(C1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)N=C=S)(F)F | C14H10F6N2OS
reactant | DIC | 0.60 mmol, 76 mg | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-{4-Trifluoromethyl-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanamide | FC(C1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F)(F)F | C27H25ClF9N5O
